US04096267
Step C: [1-Oxo-2-(4-aminomethylphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid sodium salt
Ethyl [1-oxo-2-(4-aminomethylphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetate hydrochloride (1.57 g., 0.0034 mole), sodium bicarbonate (1.15 g., 0.0136 mole), absolute ethanol (50 ml.) and water (50 ml.) are combined and heated at reflux for 1.5 hours leaving a solution which is filtered, then neutralized with 1N hydrochloric acid (10.26 ml., 0.01026 mole) to precipitate 900 mg. of [1-oxo-2-(4-aminomethylphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid sodium salt which melts at 270°-271° C. after drying.

reactant | Ethyl [1-oxo-2-(4-aminomethylphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetate hydrochloride | 0.0034 mole, 1.57 g | Cl.O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)OCC)(C)C1=CC=C(C=C1)CN
reactant | sodium bicarbonate | 0.0136 mole, 1.15 g | C([O-])(O)=O.[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 0.01026 mole, 1N, 10.26 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | [1-Oxo-2-(4-aminomethylphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid sodium salt | [Na+].O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)[O-])(C)C1=CC=C(C=C1)CN | InChI=1S/C19H17Cl2NO4.Na/c1-19(12-4-2-10(8-22)3-5-12)7-11-6-13(26-9-14(23)24)16(20)17(21)15(11)18(19)25;/h2-6H,7-9,22H2,1H3,(H,23,24);/q;+1/p-1
